US07115611B2
E] 2-Methyl-2-(2-methyl-4-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-phenoxy)-propionic acid ethyl ester
0.181 g (0.642 mmol) of the above prepared 2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethanol and 0.153 g (0.642 mmol) of 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (described in WO 02/092590) were dissolved in 8 ml of abs. THF and treated successively at 0° C. with 0.156 g (0.771 mmol) of tributylphosphine and 0.133 g (0.770 mmol) of N,N,N′,N′-tetramethylazodicarboxamide. The cooling bath was then removed and stirring continued for one night. Filtration over a pad of Celite, evaporation of the solvent, followed by flash chromatography (SiO2, hexane/AcOEt=85/15), delivered 0.070 g of the title compound as colorless oil.

reactant | 2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethanol | CC1=NC(=CC=C1CCO)C1=CC=C(C=C1)C(F)(F)F | C15H14F3NO
reactant | 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 0.642 mmol, 0.153 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
reactant | tributylphosphine | 0.771 mmol, 0.156 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | N,N,N′,N′-tetramethylazodicarboxamide | 0.770 mmol, 0.133 g | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
solvent | THF | C1CCOC1 | C4H8O
product | 2-Methyl-2-(2-methyl-4-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-phenoxy)-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)C)=O | C28H30F3NO4
